US05696112
4-(2-Chloro-4-nitrobenzoyl)-5,6-dihydro-4H-thieno-[3,2-b]azepine
A solution of 0.90 g of 4-(2-chloro-4-nitrobenzoyl)-8-hydroxy-5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepine in 5 ml of dichloromethane cooled to -10° C. is added under argon 533 μl of triethylamine and dropwise 296 μl of methanesulfonyl chloride. After one hour the cooling bath is removed and the mixture allowed to stand at room temperature overnight. The mixture is diluted with 10 ml of dichloromethane and 5 ml of water. The organic layer is separated, dried (Na2SO4) and filtered through a thin pad of hydrous magnesium silicate. The filtrate is concentrated under vacuum to give an oil which is crystallized by adding hexane. Filtration gives light yellow crystals (0.80 g).

reactant | 4-(2-chloro-4-nitrobenzoyl)-8-hydroxy-5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepine | 0.90 g | ClC1=C(C(=O)N2C3=C(C(CCC2)O)SC=C3)C=CC(=C1)[N+](=O)[O-] | C15H13ClN2O4S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 296 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-(2-Chloro-4-nitrobenzoyl)-5,6-dihydro-4H-thieno-[3,2-b]azepine | 0.80 g | ClC1=C(C(=O)N2C3=C(C=CCC2)SC=C3)C=CC(=C1)[N+](=O)[O-] | C15H11ClN2O3S
